US08058045B2
2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene (56 mg, 0.09 mmol) and palladium acetate (4 mg, 0.015 mmol) were suspended in 5 mL toluene (5 mL) and degassed over 10 minutes under a stream of nitrogen gas. 2-Amino-5-(3-(tert-butyldimethyl-silyloxy)prop-1-ynyl)pyrazine (50 mg, 0.15 mmol) and tert-butyl 4-((6-chloropyrimidin-4-ylamino)methyl)-piperidine-1-carboxylate (40 mg, 0.15 mmol), in anhydrous and degassed DMF (500 μL), and sodium tert-butoxide (46 mg, 0.45 mmol) were added and the reaction mixture was heated at 145° C. for 30 minutes by microwave irradiation. The mixture was evaporated to dryness. The residue was partitioned between water and dichloromethane and the aqueous phase was extracted with dichloromethane. The combined organic phases were dried (Na2SO4) and concentrated. The residue was redissolved in methanol and filtered through a PS—SH column. The filtrate was evaporated to dryness to give crude tert-butyl 4-((6-(5-(3-(tert-butyldimethylsilyloxy)prop-1-ynyl)pyrazin-2-yl-amino)pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate which was used directly for the next step.

reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene | 0.09 mmol, 56 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 2-Amino-5-(3-(tert-butyldimethyl-silyloxy)prop-1-ynyl)pyrazine | 0.15 mmol, 50 mg | NC1=NC=C(N=C1)C#CCO[Si](C)(C)C(C)(C)C | C13H21N3OSi
reactant | tert-butyl 4-((6-chloropyrimidin-4-ylamino)methyl)-piperidine-1-carboxylate | 0.15 mmol, 40 mg | ClC1=CC(=NC=N1)NCC1CCN(CC1)C(=O)OC(C)(C)C | C15H23ClN4O2
reactant | sodium tert-butoxide | 0.45 mmol, 46 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.015 mmol, 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
product | tert-butyl 4-((6-(5-(3-(tert-butyldimethylsilyloxy)prop-1-ynyl)pyrazin-2-yl-amino)pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)OCC#CC=1N=CC(=NC1)NC1=CC(=NC=N1)NCC1CCN(CC1)C(=O)OC(C)(C)C | C28H43N7O3Si
